US05597832
A solution of 5-(3-methylphenyl)-2-thiophenecarboxaldehyde (prepared immediately above, 4.7 g, 23.3 mmol) was dissolved in 100 mL of ethanol and sequentially treated with a solution of silver nitrate (7.9 g, 116.5 mmol) in 15 mL of water. The suspension was stirred at room temperature for 1 hour, then filtered, and the filter cake was washed with water and ether. The flitrate was separated, and the aqueous layer was acidified with conc. HCl to pH 4. This solution was twice extracted with ether. The extract was dried over MgSO4 and concentrated to give 4.6 g (96% yield) of 5-(3-methylphenyl)-2-thiophenecarboxylic acid. MS: 236 (M+NH4)+. NMR (CDCl3) d: 7.86 (d, 1H, J=5 Hz), 7.5-7.4 (m, 2H), 7.35-7.10 (m, 3H), 2.4 (s, 3H).

reactant | 5-(3-methylphenyl)-2-thiophenecarboxaldehyde | CC=1C=C(C=CC1)C1=CC=C(S1)C=O | C12H10OS
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
catalyst | silver nitrate | 116.5 mmol, 7.9 g | [N+](=O)([O-])[O-].[Ag+]
product | 5-(3-methylphenyl)-2-thiophenecarboxylic acid | 4.6 g, 96% yield | CC=1C=C(C=CC1)C1=CC=C(S1)C(=O)O | C12H10O2S
